US07585880B2
2-hydroxy-1-phenylpropan-1-one
To a solution of 2-bromo-1-phenylpropan-1-one (6.0 g, 28.2 mmol) in methanol (50 mL) was added sodium formate (7.66 g, 113 mmol) and the mixture was heated under reflux for 8 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4:1) to give the title compound (2.66 g, yield 63%) as a colorless oil.

reactant | 2-bromo-1-phenylpropan-1-one | 28.2 mmol, 6.0 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | sodium formate | 113 mmol, 7.66 g | C(=O)[O-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 2-hydroxy-1-phenylpropan-1-one | 2.66 g, yield 63% | OC(C(=O)C1=CC=CC=C1)C | C9H10O2
